US07781586B2
According to Barbasiewicz et al. (Organometallics, published on Web Jun. 17, 2006), a solution of 88 mg (0.35 mmol) N,N-diallyl 4-methylbenzenesulfonamide and 11.2 mg (0.018 mmol) [RuCl2(ImH2Mes)(8-quinolinylmethylene)] in 17.5 ml dichloromethane was stirred at room temperature. To monitor the conversion and selectivity, 0.2-ml samples were taken were after 4 h and 24 h. Each sample was filtered over a silica gel pad, the filtrate was evaporated to dryness and analyzed by GC as described in Example 12. After 4 h (2% conversion), 0.6% of the title compound and 0.3% of 1-(toluene-4-sulfonyl)-2,3-dihydro-1H-pyrrole and after 24 h (3% conversion) 1.5% of the title compound and 0.5% of 1-(toluene-4-sulfonyl)-2,3-dihydro-1H-pyrrole were formed.

reactant | N,N-diallyl 4-methylbenzenesulfonamide | 0.35 mmol, 88 mg | C(C=C)N(S(=O)(=O)C1=CC=C(C=C1)C)CC=C | C13H17NO2S
solvent | dichloromethane | 17.5 ml | ClCCl | CH2Cl2
product | 1-(toluene-4-sulfonyl)-2,3-dihydro-1H-pyrrole | 0.5% | C1(=CC=C(C=C1)S(=O)(=O)N1CCC=C1)C | C11H13NO2S
